US07790770B2
A 3-liter four neck round-bottomed flask (flame dried) was charged 1-bromo-3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)benzene (72.88 g, 0.25 mol), 4-fluoro-3-isopropoxy-N-methoxy-N-methylbenzamide (60.39 g, 0.25 mol) and dry THF (700 mL) under N2. The solution was cooled to −76° C., and a solution of n-BuLi in hexane (2.5M, 100 mL, 0.25 mol) was drop-wise maintaining the reaction mixture temperature below −70° C. over a period of 40 min. The reaction mixture was stirred at −76° C. for 1.5 h then quenched with 1N HCl (500 mL). The mixture was concentrated in vacuo to half the volume and was partitioned between EtOAc and H2O (v/v 1:0.3, 1 L). The organic phase was separated and the aqueous layer was extracted with EtOAc (500 mL). The combined organic extracts were washed with brine and then concentrated in vacuo to give a yellow oil which was purified by column chromatography using CH2Cl2 in hexanes (0% to 20%) to give (4-fluoro-3-isopropoxyphenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone as a colorless oil contaminated with a by-product (49.0 g, 50%). LC-MS (10-90% MeOH in H2O with 0.1% TFA in a 2-min gradient) 393.2 (M+H), retention time=2.15 min.

reactant | 1-bromo-3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)benzene | 0.25 mol, 72.88 g | BrC1=CC(=CC(=C1)OC(C(F)F)(F)F)F | C8H4BrF5O
reactant | 4-fluoro-3-isopropoxy-N-methoxy-N-methylbenzamide | 0.25 mol, 60.39 g | FC1=C(C=C(C(=O)N(C)OC)C=C1)OC(C)C | C12H16FNO3
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 0.25 mol, 2.5M, 100 mL | CCCCCC | C6H14
solvent | THF | 700 mL | C1CCOC1 | C4H8O
product | (4-fluoro-3-isopropoxyphenyl)(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)methanone | FC1=C(C=C(C=C1)C(=O)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)OC(C)C | C18H14F6O3
